Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ year old woman with a history of multiple 
sclerosis, initially diagnosed when she was ___ years old, with 
first episode manifesting as optic neuritis and right-sided 
weakness. She was hospitalized at the time and was treated with 
IV steroids. MRI confirmed the diagnosis. LP was never 
performed. 

Since her initial diagnosis, ___ describes "a downhill" 
decline, saying she just keeps getting weaker. She notes 
occasional relapses of right-sided weakness or left-sided 
weakness, never bilateral weakness. Occasionally she has had 
hospitalizations requiring IV steroids. Sometimes her symptoms 
resolve on their own. She is followed by Dr. ___ in 
___ (we cannot access the records) and was 
reportedly initially treated with glatimir (copaxone) followed 
by interferon beta 1 b (betaseron). She eventually stopped 
taking MS medications in ___ when she decided that they were 
not working. She does continue to take tizanidine for muscle 
spasms. Although she is not incontinent, she often is unable to 
make it to the restroom in time and thus endorses premature 
flow. 
She also occasionally takes antibiotics (ciprofloxacin, 
macrobid) for intermittent urinary tract infections, cultures 
unknown.

Since then, she has been living in her home and functioning 
independently with the assistance of her boyfriend. She 
mobilizes with a wheelchair and is at baseline able to transfer 
by herself from the chair to a different chair or bed. On good 
days, she can stand for a few minutes, holding onto support.

Of note, she also has a history of a recent PE (___), 
thought to be provoked by a DVT that may have formed in the 
setting of chronic venous stasis/immobility. She was started on 
warfarin and has reportedly been therapeutic on warfarin, 
stating recent INRs ___ range. 

Over the past 4 days, she has not been feeling well, noting a 
fever as high as T102.4, in addition to nausea and vomiting. No 
diarrhea. On the morning of presentation, she woke up feeling 
completely weak, unable to move her arms and legs. This reminded 
her of the symptoms she had just prior to her PE. She presented 
to an OSH for further workup and was transferred to ___ for 
further management of weakness in the setting of MS.

___ review of symptoms, she denies dysuria, although she notes 
that she doesn't often know when she has a urinary tract 
infection. No shortness of breath or chest pain. She does 
endorse leg swelling. 

On neurologic review of systems, the patient denies headache, 
lightheadedness, or confusion. Denies difficulty with producing 
or comprehending speech. Denies loss of vision, blurred vision, 
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies loss of sensation. Denies bowel or bladder 
incontinence or retention. 

 
Past Medical History:
PE on warfarin for goal INR ___
Multiple Sclerosis
Chronic hip pain
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
EXAM ON ADMISSION:
=================
Vitals: T: 99.7  P: 125  R: 18  BP: 120s/60s SaO2: 100RA
General: Awake, cooperative, NAD.
HEENT: poor dentition, breathing comfortably on room air
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Breathing comfortably on room air
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with ___ beats 
of nystagmus on left gaze, no nystagmus on right gaze. Normal 
saccades. VFF to confrontation and finger movements. No evidence 
for red desaturation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___- 2   2    1  2     2     1   1
R  5    ___   ___- 2   2    1  2     2     2   2
-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  1  0    1    0   0
R  1  0    1    0   0
Plantar response was extensor bilaterally.

-Coordination: Subtle end-point intention tremor. No dysmetria 
on FNF 

EXAM ON DISCHARGE:
==================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, poor dentition
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: right lower extremity wound, appears to have venous
stasis changes 
Skin: dried, flakey

Neurologic:

Mental status: 
Patient is alert and oriented to name, date, and location. 
Patient can express her concerns and follow directions during
examination. Speech fluent. Language intact. 

Cranial nerves: 
No red desaturation.  Pupils are equal, round, and reactive to
light (3 to 2 mm).  No APD.  Extraocular movement is intact. 
Facial sensation is intact.  Face is symmetric.  Hearing is
intact. Uvula is midline.  Palate symmetric.  Tongue midline 
with
good movements.  Shoulders rise symmetrically. 

Motor: 
Bulk and tone are normal.  No pronation.  Right deltoid 4+/5,
otherwise full in upper extremities.  Patient barely able to 
move
legs antigravity.  Quads: right ___, left ___.  Hamstrings
___ on right and left.  TA ___ on right and left.  ___ ___
bilaterally.  ___ ___ right and ___ left.  

Sensory: 
Crude touch appreciated in upper and lower extremities.  Patient
unable to appreciate upward or downward deflection of large toe
bilaterally. 

Reflexes: 
Plantar response extensor bilaterally. 

Coordination: 
Dysmetria bilaterally with finger to nose that is worse on the
right.  Rebound with outstretched arms also worse on the right. 

 
Pertinent Results:
___ 09:10AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-POS* mthdone-NEG
___ 09:10AM URINE  UCG-NEGATIVE
___ 09:10AM URINE  WBCCLUMP-MANY*
___ 04:30AM   WBC-17.6* RBC-3.67* HGB-10.5* HCT-30.9* 
MCV-84 MCH-28.6 MCHC-34.0 RDW-14.4 RDWSD-45.0

IMAGING:
========

CTA:  
  
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Scattered ground-glass changes and interlobular septal 
thickening are 
likely secondary to pulmonary edema. 
3. Dilated main pulmonary artery measuring up to 3.8 cm across 
maximal 
diameter can be seen in pulmonary hypertension. 
4. The partially visualized thyroid is heterogeneous with 
enlargement of the 
left lobe. Nonurgent thyroid ultrasound can be considered for 
further 
characterization. 

CXR wnl

Non con head CT and C-spine at OSH reportedly wnl 
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of PE on warfarin, 
frequent urinary tract infection and MS not on immune-modulating 
therapy who presents with acute generalized weakness in her 
lower extremities and subjective upper extremity weakness in the 
setting of UTI. Complete workup for pulmonary embolism and lower 
extremity deep vein thromboses was negative. She was treated 
with ceftriaxone and her symptoms began to improve. We suspect 
this is a recrudescence of prior MS lesions in the setting of a 
urinary tract infection.

Transitional Issues:
- follow-up with your PCP and with your neurologist
- please take a daily multivitamin that includes vitamin D
- follow-up on vitamin D level which was drawn on admission
- check INR level on ___ or ___ to re-dose warfarin
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Tizanidine 2 mg PO Q6H:PRN spasms 
3. Warfarin Dose is Unknown  PO DAILY16 
4. OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  ___  MD to order daily dose PO DAILY16  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate  
4.  Tizanidine 2 mg PO Q6H:PRN spasms  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital for management of generalized 
weakness that likely resulted from a urinary tract infection. 
During your hospital stay, ___ received a complete workup, 
including evaluation of your legs and your lungs for a blood 
clot. We found no sign of blood clot. 

We continued ___ on your warfarin. 

We treated your urinary tract infection with an antibiotic 
(ceftriaxone). Your symptoms began to improve. Your condition 
was likely caused by an exacerbation of old MS lesions and was 
not concerning for a new lesion. This can sometimes occur in the 
setting of infections, such as a urinary tract infection, as ___ 
had. 

Please resume all medications as prior to admission. 

Follow-up with your neurologist.  

Thank ___ for allowing us to participate in your care,
___ Neurology
 
Followup Instructions:
___